US08378124B2
Preparation of (S,SS)-2-[1-(tert-butylsulfinylamino)-2-cyclopropylethyl]-N-methyl-1,3-dithiolane-2-carboxamide
A heavy-walled glass tube was charged with ethyl (S,SS)-2-[1-(tert-butylsulfinylamino)-2-cyclopropylethyl]-1,3-dithiolane-2-carboxylate (2.00 g, 5.47 mmol) and a chilled 8.0 M solution of methylamine in ethanol (5 mL, 40 mmol). The mixture was allowed to warm to room temperature and was stirred for 2 hours at which time reaction was complete by HPLC analysis. Distillation of the solvent at reduced pressure afforded the title compound (1.79 g, 93%) as an amber glass.

reactant | ethyl (S,SS)-2-[1-(tert-butylsulfinylamino)-2-cyclopropylethyl]-1,3-dithiolane-2-carboxylate | 5.47 mmol, 2.00 g | C(C)(C)(C)[S@](=O)N[C@@H](CC1CC1)C1(SCCS1)C(=O)OCC | C15H27NO3S3
reactant | methylamine | CN | CH5N
reactant | ethanol | 40 mmol, 5 mL | C(C)O | C2H6O
product | (S,SS)-2-[1-(tert-butylsulfinylamino)-2-cyclopropylethyl]-N-methyl-1,3-dithiolane-2-carboxamide | 1.79 g, 93% | C(C)(C)(C)[S@](=O)N[C@@H](CC1CC1)C1(SCCS1)C(=O)NC | C14H26N2O2S3
